US07501516B2
3-cyano-4-(4-cyano-2,3-methylenedioxyanilino)-6,7-dimethoxyquinoline
Tris(dibenzylideneacetone)dipalladium (0.0073 g) was added to a mixture of 3-cyano-4-(4-iodo-2,3methylenedioxyanilino)-6,7-dimethoxyquinoline (0.05 g) zinc cyanide (0.015 g), diphenylphosphinoferrocene (0.009 g), zinc powder (0.0035 g) and DMA (2 ml) and the resultant mixture was stirred and heated to 110° C. for 1 hour. The mixture was cooled to ambient temperature and partitioned between ethyl acetate and water. The organic layer was dried over magnesium sulphate and evaporated and the residue was purified by column chromatography on silica using increasingly polar mixtures of hexane and ethyl acetate as eluent. The material so obtained was triturated under diethyl ether. There was thus obtained 3-cyano-4-(4-cyano-2,3-methylenedioxyamino)-6.7-dimethoxyquinoline as a solid (0.014 g); NMR Spectrum: (CDCl3) 3.84 (s, 3H), 4.07 (s, 3H), 6.16 (s, 2H), 6.28 (d, 1H), 6.75 (s, 1H), 6.99 (m, 2H), 7.46 (s, 1H), 8.73 (s, 1H); Mass Spectrum: M+H+ 375.

reactant | 3-cyano-4-(4-iodo-2,3methylenedioxyanilino)-6,7-dimethoxyquinoline | 0.05 g | C(#N)C=1C=NC2=CC(=C(C=C2C1NC1=C2C(=C(C=C1)I)OCO2)OC)OC | C19H14IN3O4
reactant | DMA | 2 ml | CC(=O)N(C)C | C4H9NO
catalyst | Tris(dibenzylideneacetone)dipalladium | 0.0073 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | diphenylphosphinoferrocene | 0.009 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
catalyst | zinc | 0.0035 g | [Zn] | Zn
product | 3-cyano-4-(4-cyano-2,3-methylenedioxyanilino)-6,7-dimethoxyquinoline | C(#N)C=1C=NC2=CC(=C(C=C2C1NC1=C2C(=C(C=C1)C#N)OCO2)OC)OC | C20H14N4O4
